US04814454
A. 6-Methoxy-2-naphthalene carboxylic acid
A solution of 8.00 g (33.8 mmol, Aldrich) of 6-bromo-2-methoxynaphthalene in 75 ml of dry THF was cooled to -78° C. and 36 ml (1.8M in pentane, 65 mmol, Aldrich) of t-butyllithium was added over 30 minutes. The reaction mixture was stirred for 30 minutes at -78° C. then warmed to -20° C. for 30 minutes. The mixture was recooled to -78° C. and b 8.00 g (180 mmol) of crushed dry ice was added to the slurry, and then this was allowed to warm to room temperature over 2 hours. The mixture was concentrated in vacuo, 100 ml of 1N HCl was added to the residue and this was extracted with 100 ml of hot EtOAc. The organic layer was washed with water, dried (MgSO4) and concentrated in vacuo to give a solid. Purification via recrystallization (EtOAc/petroleum ether) afforded 5.80 g (85%) of the title compound as small white needles: m.p. 198°-200° C.

reactant | 6-bromo-2-methoxynaphthalene | 33.8 mmol, 8.00 g | BrC=1C=C2C=CC(=CC2=CC1)OC | C11H9BrO
reactant | t-butyllithium | 65 mmol, 1.8M, 36 ml | C(C)(C)(C)[Li]
reactant | dry ice | 180 mmol, 8.00 g | C(=O)=O | CO2
solvent | THF | 75 ml | C1CCOC1 | C4H8O
product | 6-Methoxy-2-naphthalene carboxylic acid | 5.80 g, 85% | COC=1C=C2C=CC(=CC2=CC1)C(=O)O | C12H10O3
